### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Circumcenter): `map` and `restrict` lemmas

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas about the `circumcenter` and `circumradius` of a simplex mapped with `map` (using an affine isometry) or `restrict`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Circumcenter.lean [hunk 1]
```diff
@@ -336,6 +336,38 @@ theorem circumcenter_reindex {m n : ℕ} (s : Simplex ℝ P m) (e : Fin (m + 1)
 theorem circumradius_reindex {m n : ℕ} (s : Simplex ℝ P m) (e : Fin (m + 1) ≃ Fin (n + 1)) :
     (s.reindex e).circumradius = s.circumradius := by simp_rw [circumradius, circumsphere_reindex]
 
+@[simp] lemma circumcenter_map {V₂ P₂ : Type*} [NormedAddCommGroup V₂] [InnerProductSpace ℝ V₂]
+    [MetricSpace P₂] [NormedAddTorsor V₂ P₂] {n : ℕ} (s : Simplex ℝ P n) (f : P →ᵃⁱ[ℝ] P₂) :
+    (s.map f.toAffineMap f.injective).circumcenter = f s.circumcenter := by
+  rw [eq_comm]
+  refine (s.map f.toAffineMap f.injective).eq_circumcenter_of_dist_eq (r := s.circumradius) ?_
+    fun i ↦ (by simp)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Geometry/Euclidean/Circumcenter.lean]:
```suggestion
    fun i ↦ by simp
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer delegate

File: Mathlib/Geometry/Euclidean/Circumcenter.lean [hunk 2]
```diff
@@ -336,6 +336,38 @@ theorem circumcenter_reindex {m n : ℕ} (s : Simplex ℝ P m) (e : Fin (m + 1)
...
+    fun i ↦ by simp
+  rw [map_points, Set.range_comp, ← AffineSubspace.map_span]
+  exact AffineSubspace.mem_map_of_mem _ s.circumcenter_mem_affineSpan
+
+@[simp] lemma circumcenter_restrict {n : ℕ} (s : Simplex ℝ P n) (S : AffineSubspace ℝ P)
+    (hS : affineSpan ℝ (Set.range s.points) ≤ S) :
+    haveI := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
+    (s.restrict S hS).circumcenter = s.circumcenter := by
+  rw [eq_comm]
+  convert (s.restrict S hS).circumcenter_map S.subtypeₐᵢ
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Circumcenter.lean]: Given that `convert` can cover up a multitude of sins, I slightly prefer:
```suggestion
  have : Nonempty S := Nonempty.map (AffineSubspace.inclusion hS) inferInstance
  exact (s.restrict S hS).circumcenter_map S.subtypeₐᵢ
```
since it's clear at a glance what the issue is.

File: Mathlib/Geometry/Euclidean/Circumcenter.lean [hunk 3]
```diff
@@ -336,6 +336,38 @@ theorem circumcenter_reindex {m n : ℕ} (s : Simplex ℝ P m) (e : Fin (m + 1)
...
+@[simp] lemma circumradius_map {V₂ P₂ : Type*} [NormedAddCommGroup V₂] [InnerProductSpace ℝ V₂]
+    [MetricSpace P₂] [NormedAddTorsor V₂ P₂] {n : ℕ} (s : Simplex ℝ P n) (f : P →ᵃⁱ[ℝ] P₂) :
+    (s.map f.toAffineMap f.injective).circumradius = s.circumradius := by
+  rw [eq_comm]
+  refine (s.map f.toAffineMap f.injective).eq_circumradius_of_dist_eq (p := f s.circumcenter) ?_
+    fun i ↦ by simp
+  rw [map_points, Set.range_comp, ← AffineSubspace.map_span]
+  exact AffineSubspace.mem_map_of_mem _ s.circumcenter_mem_affineSpan
+
+@[simp] lemma circumcenter_restrict {n : ℕ} (s : Simplex ℝ P n) (S : AffineSubspace ℝ P)
```
Comment (ocfnash) [inline Mathlib/Geometry/Euclidean/Circumcenter.lean:357]: Will the hypothesis `hS` often be available to `simp`? If not we might not want to tag this as `simp`.

Comment (ocfnash) [reply Mathlib/Geometry/Euclidean/Circumcenter.lean:357]: Similar remark for `circumradius_restrict` below.

File: Mathlib/Geometry/Euclidean/Circumcenter.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/Geometry/Euclidean/Circumcenter.lean]: Similar remark for `circumradius_restrict` below.

**Review by ocfnash — APPROVED** [review]
Thanks,

bors d+

File: Mathlib/Geometry/Euclidean/Circumcenter.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Circumcenter.lean:357]: `hS` is on the LHS, so `simp` should be able to find it as part of the expression being simplified.

Comment (ocfnash) [reply Mathlib/Geometry/Euclidean/Circumcenter.lean]: Oh yes of course, thanks!
